US08558002B2
Dimethyl 5,5′-{N-[(6-amino-5-{[3-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenyl]ethynyl}pyridin-3-yl)carbonyl]sulfonimidoyl}dipentanoate
The reaction solution of dimethyl 5,5′-[N-({6-amino-5-[(3-aminophenyl)ethynyl]pyridin-3-yl}carbonyl)sulfonimidoyl]dipentanoate (140 mg, 0.265 mmol, 1.0 equiv.) and 2-fluoro-5-methylphenyl isocyanate (38.8 μL, 0.292 mmol, 1.1 equiv.) in DMF (3 mL) was stirred at room temperature for 3 hours. It was then diluted with EtOAc, washed with sat. aq. NaHCO3, aq. NH4Cl, and brine, and finally dried with anhydrous Na2SO4. The solution was decanted, concentrated, and the oily residue was subject to a gradient column chromatography (from EtOAc-Hex 1:5 to 5:1) yielding the title compound as clear oil (169 mg). 1H NMR (DMSO-d6) δ: 9.14-9.15 (m, 1H), 8.56 (d, J=2.3 Hz, 1H), 8.54 (d, J=2.3 Hz, 1H), 8.04 (d, J=2.1 Hz, 1H), 7.99 (dd, J=7.9, 1.8 Hz, 1H), 7.81 (t, J=−1.8 Hz, 1H), 7.40 (dt, J=7.7, 1.9 Hz, 1H), 7.30-7.35 (m, 2H), 7.11 (dd, J=11.3, 8.4 Hz, 1H), 7.00 (br. s., 2H), 6.79-6.83 (m, 1H), 3.52-3.64 (m, 10H), 2.39 (t, J=7.3 Hz, 4H), 2.27 (s, 3H), 1.72-1.85 (m, 4H), 1.65-1.71 (m, 4H)

reactant | dimethyl 5,5′-[N-({6-amino-5-[(3-aminophenyl)ethynyl]pyridin-3-yl}carbonyl)sulfonimidoyl]dipentanoate | 0.265 mmol, 140 mg, 1.0 equiv. | NC1=C(C=C(C=N1)C(=O)N=S(=O)(CCCCC(=O)OC)CCCCC(=O)OC)C#CC1=CC(=CC=C1)N | C26H32N4O6S
reactant | 2-fluoro-5-methylphenyl isocyanate | 0.292 mmol, 38.8 μL, 1.1 equiv. | FC1=C(C=C(C=C1)C)N=C=O | C8H6FNO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Dimethyl 5,5′-{N-[(6-amino-5-{[3-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenyl]ethynyl}pyridin-3-yl)carbonyl]sulfonimidoyl}dipentanoate | 169 mg | NC1=C(C=C(C=N1)C(=O)N=S(=O)(CCCCC(=O)OC)CCCCC(=O)OC)C#CC1=CC(=CC=C1)NC(=O)NC1=C(C=CC(=C1)C)F | C34H38FN5O7S
